US09353107B2
Step-iii: 3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-5-(3-(piperazin-1-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine hydrochloride
To a stirred solution of tert-butyl 4-(3-(3-(1-(2,5-difluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazine-1-carboxylate (76 mg, 0.137 mmol) in methanol (5 ml) added saturated HCl in dioxane at 0° C. This gradually brought to RT and stirred for four hours. Reaction mass was cooled and added ether to get solids. Solvents decanted and solids washed by ethyl acetate and dried. This afforded 20 mg (29.8% yield) titled compound. 1H NMR (CD3OD, 400 MHz): δ 9.071-9.067 (d, 1H), 8.778-8.774 (d, 1H), 8.605 (s, 1H), 8.215 (s, 1H), 8.009 (s, 1H), 7.618-7.614 (m, 1H), 7.535-7.496 (t, 1H), 7.460-7.441 (m, 1H), 7.405-7.351 (m, 1H), 7.272-7.248 (m, 1H), 7.174-7.155 (m, 1H), 7.086-7.030 (m, 2H), 5.530 (s, 2H), 3.682-3.656 (m, 4H), 3.497-3.471 (m, 4H), 3.339 (s, 3H). MS: m/z=453.4 (M+1); HPLC: 89.28% in method A.

reactant | tert-butyl 4-(3-(3-(1-(2,5-difluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazine-1-carboxylate | 0.137 mmol, 76 mg | FC1=C(CN2N=CC(=C2)C2=CNC3=NC=C(C=C32)C=3C=C(C=CC3)N3CCN(CC3)C(=O)OC(C)(C)C)C=C(C=C1)F | C32H32F2N6O2
reactant | HCl | Cl | ClH
reactant | ether | CCOCC | C4H10O
solvent | methanol | 5 ml | CO | CH4O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-5-(3-(piperazin-1-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine hydrochloride | 20 mg, 29.8% yield | Cl.FC=1C=C(CN2N=CC(=C2)C2=CNC3=NC=C(C=C32)C3=CC(=CC=C3)N3CCNCC3)C=CC1 | InChI=1S/C27H25FN6.ClH/c28-23-5-1-3-19(11-23)17-34-18-22(15-32-34)26-16-31-27-25(26)13-21(14-30-27)20-4-2-6-24(12-20)33-9-7-29-8-10-33;/h1-6,11-16,18,29H,7-10,17H2,(H,30,31);1H
